US06291452B1
A mixture of N-[(3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-(2-hydroxyphenacyl)-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-[3-(tetrazol-5-yl)phenyl]urea (150 mg), triethylamine (75 mg) and chlorotriphenylmethane (69 mg) in a mixture of N,N-dimethylformamide and tetrahydrofuran (1:3, 4 ml) was stirred overnight. Ethyl acetate and a saturated aqueous solution of sodium bicarbonate were added to the reaction mixture. The separated organic layer was washed with water and brine, and then dried over sodium sulfate. The solvent was evaporated in vacuo to afford an amorphous mass, which was triturated in diisopropyl ether and collected by filtration to afford N-[(3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-(2-hydroxyphenacyl)-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-{3-[1-(triphenylmethyl)tetrazol-5-yl]phenyl}urea (186.0 mg, 88.6% yield) as a crystalline powder.

reactant | N-[(3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-(2-hydroxyphenacyl)-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-[3-(tetrazol-5-yl)phenyl]urea | 150 mg | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=CC=C2C)CC(=O)C2=C(C=CC=C2)O)=O)NC(=O)NC2=CC(=CC=C2)C2=NN=NN2 | C32H25FN8O4
reactant | triethylamine | 75 mg | C(C)N(CC)CC | C6H15N
reactant | chlorotriphenylmethane | 69 mg | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-(2-hydroxyphenacyl)-9-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-{3-[1-(triphenylmethyl)tetrazol-5-yl]phenyl}urea | 186.0 mg, 88.6% yield | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=CC=C2C)CC(=O)C2=C(C=CC=C2)O)=O)NC(=O)NC2=CC(=CC=C2)C2=NN=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C51H39FN8O4
